US07858632B2
To a solution of 2-[4,5-dimethoxy-2-(1-methyl-2-phenyl-ethyl)-phenyl]-4,4-dimethyl-4,5-dihydro-oxazole (7.515 g, 21.3 mmol) in 50 mL NO2CH3 was added iodomethane (2.65 mL, 42.5 mmol). The solution was warmed to 110 ° C. After 3 hours the solution was cooled and concentrated in vacuo to give 2-[4,5-dimethoxy-2-(1-methyl-2-phenyl-ethyl)-phenyl]-3,4,4-trimethyl-4,5-dihydro-oxazolium iodide (10.108 g) as an orange solid.

reactant | 2-[4,5-dimethoxy-2-(1-methyl-2-phenyl-ethyl)-phenyl]-4,4-dimethyl-4,5-dihydro-oxazole | 21.3 mmol, 7.515 g | COC1=CC(=C(C=C1OC)C=1OCC(N1)(C)C)C(CC1=CC=CC=C1)C | C22H27NO3
reactant | iodomethane | 42.5 mmol, 2.65 mL | IC | CH3I
solvent | NO2CH3 | 50 mL | [N+](=O)([O-])C | CH3NO2
product | 2-[4,5-dimethoxy-2-(1-methyl-2-phenyl-ethyl)-phenyl]-3,4,4-trimethyl-4,5-dihydro-oxazolium iodide | 10.108 g | [I-].COC1=CC(=C(C=C1OC)C=1OCC([N+]1C)(C)C)C(CC1=CC=CC=C1)C | InChI=1S/C23H30NO3.HI/c1-16(12-17-10-8-7-9-11-17)18-13-20(25-5)21(26-6)14-19(18)22-24(4)23(2,3)15-27-22;/h7-11,13-14,16H,12,15H2,1-6H3;1H/q+1;/p-1
